US07491722B2
5-Acetyl-2-ethyl-4-[(5-nitropyridin-2-yl)amino]-6-phenylpyridazin-3(2H)-one
To a solution of 80 mg (0.278 mmol) of 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one (Dal Piaz, V et al, J. Med. Chem. 1997, 40, 1417) in 4 ml of ethanol, 77 mg (0.556 mmol) of 2-amino-5-nitropyridine was added. The resulting mixture was irradiated in microwave oven for seven hours at 120° C. The final product was collected by filtration and washed with diethylether to yield the title compound (36 mg, 34.3% yield).

reactant | 5-acetyl-2-ethyl-4-nitro-6-phenylpyridazin-3(2H)-one | 0.278 mmol, 80 mg | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)[N+](=O)[O-] | C14H13N3O4
reactant | 2-amino-5-nitropyridine | 0.556 mmol, 77 mg | NC1=NC=C(C=C1)[N+](=O)[O-] | C5H5N3O2
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-Acetyl-2-ethyl-4-[(5-nitropyridin-2-yl)amino]-6-phenylpyridazin-3(2H)-one | 36 mg, 34.3% yield | C(C)(=O)C1=C(C(N(N=C1C1=CC=CC=C1)CC)=O)NC1=NC=C(C=C1)[N+](=O)[O-] | C19H17N5O4
